US07323475B2
a) 1-(3-fluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester
Synthesized from 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester and 3-Fluoro phenol in analogy to Example D-20 d); MS-(+)-ion: M+1=356.1.

reactant | 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl | C14H14ClNO3
reactant | 3-Fluoro phenol | FC=1C=C(C=CC1)O | C6H5FO
product | 1-(3-fluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)OC1=CC(=CC=C1)F | C20H18FNO4
